US07560558B2
Compound 392: 1-{3-[7-(2-Hydroxy-ethoxy)-6-methoxy-quinolin-4-yloxy]-quinolin-2-yl}-ethanone
1-{3-[7-(2-Chloro-ethoxy)-6-methoxy-quinolin-4-yloxy]-quinolin-2-yl}-ethanone (37 mg) was dissolved in N,N-dimethylformamide (1 ml) to prepare a solution. Potassium carbonate (363 mg) and water (0.1 ml) were added to the solution, and the mixture was stirred at 60° C. for 5 days. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (2 mg, yield 6%).

reactant | 1-{3-[7-(2-Chloro-ethoxy)-6-methoxy-quinolin-4-yloxy]-quinolin-2-yl}-ethanone | 37 mg | ClCCOC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=CC=C2C1)C(C)=O)OC | C23H19ClN2O4
reactant | Potassium carbonate | 363 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.1 ml | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-{3-[7-(2-Hydroxy-ethoxy)-6-methoxy-quinolin-4-yloxy]-quinolin-2-yl}-ethanone | 2 mg, yield 6% | OCCOC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=CC=C2C1)C(C)=O)OC | C23H20N2O5
